US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (378 mg), 3-hydroxymethylpiperidine (1.29 g) and 2-butanone (10 ml) was stirred with heating under reflux for 12 hours. The reaction mixture was poured into 100 ml of water and extracted with ethyl acetate (100 ml×2). The organic layer was washed with 100 ml of water, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-2-(3-hydroxymethyl-1-piperidinyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole was obtained as an oil (102 mg, 27%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 378 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | 3-hydroxymethylpiperidine | 1.29 g | OCC1CNCCC1 | C6H13NO
reactant | 2-butanone | 10 ml | CC(CC)=O | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(4-chlorophenyl)-2-(3-hydroxymethyl-1-piperidinyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N1CC(CCC1)CO | C25H29ClN2O4
